US03957787
To a solution of 154.0 g of 3-(2-bromo-4-methylthiophenyl)propyl bromide in 400 ml of dry xylene, is added a solution of 70.0 g of 2-aminopyrimidine in 300 ml of dry xylene and the mixture is heated under reflux for about 18 hours. The cooled xylene solution is decanted from the crystalline solid, the solid is triturated with 200 ml of 2-propanol and filtered to give 117.0 g of crude product. Recrystallization of the latter from 2-propanol gives about 98.0 g of 2-amino-1-[3-(2-bromo-4-methylthiophenyl)propyl]-pyrimidinium bromide.

reactant | 3-(2-bromo-4-methylthiophenyl)propyl bromide | 154.0 g | BrC1=C(C=CC(=C1)SC)CCCBr | C10H12Br2S
reactant | 2-aminopyrimidine | 70.0 g | NC1=NC=CC=N1 | C4H5N3
solvent | xylene | 400 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-amino-1-[3-(2-bromo-4-methylthiophenyl)propyl]-pyrimidinium bromide | about 98.0 g | [Br-].NC1=[N+](C=CC=N1)CCCC1=C(C=C(C=C1)SC)Br | InChI=1S/C14H16BrN3S.BrH/c1-19-12-6-5-11(13(15)10-12)4-2-8-18-9-3-7-17-14(18)16;/h3,5-7,9-10,16H,2,4,8H2,1H3;1H
